US07465731B2
A solution of 2N HCl-EtOH solution (1.2 ml) was added to a mixture of (2E)-3-{2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (200 mg) in EtOH (5 ml) and stirred at 20-25° C. for 2 hours. IPE (30 ml) was added to a reaction mixture and the resultant mixture was stirred at ambient temperature for 20 minutes. The precipitate was collected by filtration to give (2E)-3-(2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl)-N-hydroxyacrylamide dihydrochloride (90 mg).

reactant | HCl EtOH | 2N, 1.2 ml | Cl.CCO
reactant | (2E)-3-{2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl}-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 200 mg | C(C1=CC=CC=C1)N1CC(CC1)NC1=NC=C(C(=N1)C)/C=C/C(=O)NOC1OCCCC1 | C24H31N5O3
solvent | EtOH | 5 ml | CCO | C2H6O
product | (2E)-3-(2-[(1-benzyl-3-pyrrolidinyl)amino]-4-methyl-5-pyrimidinyl)-N-hydroxyacrylamide dihydrochloride | 90 mg | Cl.Cl.C(C1=CC=CC=C1)N1CC(CC1)NC1=NC=C(C(=N1)C)/C=C/C(=O)NO | InChI=1S/C19H23N5O2.2ClH/c1-14-16(7-8-18(25)23-26)11-20-19(21-14)22-17-9-10-24(13-17)12-15-5-3-2-4-6-15;;/h2-8,11,17,26H,9-10,12-13H2,1H3,(H,23,25)(H,20,21,22);2*1H/b8-7+;;
